US08211927B2
C: 4-Fluoro-N-((1R,3S)-3-hydroxycyclohexyl)-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide
To a solution of 4-fluoro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid (19 mg, 0.07 mmol), (1S,3R)-3-aminocyclohexanol (9.3 mg, 0.081 mmol), 1-hydroxybenzotriazole hydrate (9.0 mg, 0.07 mmol), and triethylamine (10 μL, 0.07 mmol) in tetrahydrofuran (1 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (15 mg. 0.081 mmol). After stirring overnight, the volatiles were removed in vacuo and the compound was purified by silica gel chromatography eluting with 5% methanol in dichloromethane to afford the title compound: (12.1 mg, 0.03 mmol). MS (ESI) m/z (M+H+): 373.2.

reactant | 4-fluoro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid | 0.07 mmol, 19 mg | FC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C11H5F4NO3
reactant | (1S,3R)-3-aminocyclohexanol | 0.081 mmol, 9.3 mg | N[C@H]1C[C@H](CCC1)O | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.07 mmol, 9.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.07 mmol, 10 μL | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.081 mmol, 15 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-Fluoro-N-((1R,3S)-3-hydroxycyclohexyl)-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide | FC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@H]1C[C@H](CCC1)O | C17H16F4N2O3
